US06303628B1
5-bromoacetylindan
To a solution of 5-acetylindan (500 mg, 3.1 mmol) in dichloromethane-methanol (2:1, 15 ml) was added tetrabutylammonium tribromide (1.64 g, 3.4 mmol) was added at room temperature. After 23 h, the mixture was concentrated and the residue was partitioned between diethyl ether (50 ml) and water (50 ml). The organic layer was separated and washed with water (50 ml), brine (50 ml), and dried (MgSO4). Removal of solvent gave 698 mg (56%) of the title compound as white solids.

reactant | 5-acetylindan | 3.1 mmol, 500 mg | C(C)(=O)C=1C=C2CCCC2=CC1 | C11H12O
reactant | tetrabutylammonium tribromide | 3.4 mmol, 1.64 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane methanol | 15 ml | ClCCl.CO
product | 5-bromoacetylindan | 698 mg, 56% | BrCC(=O)C=1C=C2CCCC2=CC1 | C11H11BrO
